* LMR62421X
*****************************************************************************
* (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LMR62421X
* Date: 24JAN2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: AN-2197 LMR62421
* EVM Users Guide: SNVA507–November 2011
* Datasheet: SNVS734A –REVISED OCTOBER 2011
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT LMR62421X_TRANS VIN EN SW FB GND PARAMS: SS=0
RISN ISN GND 15K
IISN GND ISN DC=5.5U
XICL ICL GND 58 ISN CCVS_0
RVINSUB GND VIN 1K
RDRSUB GND SW 1K
E_BISN NODE1SUB 0 value = { IF(V(ISN) > V(OPAMPOUT) , 1 , 0)}
E_BPWM PWM 0 value = { IF(V(BLANK) < 0.5 & V(NODE2SUB) > 0.5 , 1 , 0)}
E_BN2 NODE2SUB 0 value = { IF(V(NODE1SUB) > 0.5 , 1 , IF( V(OC)  > 0.5 , 1 , 0))}
E_BRESET RESET 0 value = { IF(V(PWM) > 0.5 , 1 , IF( V(FAULT) > 0.5 , 1 , 0))}
E_BNONE NODEONE 0 value = { IF(V(CLK) > 0.5 , 1 , IF(  V(QP) > 0.5 , 1 , 0))}
E_BQP QP 0 value = { IF(V(RESET) < 0.5 & V(NODEONE) > 0.5 , 1 , 0)}
CQ Q 0 100P
E_BDRIVE INPUT 0 value = { IF(V(CLK) < 0.5 & V(Q) > 0.5 , 1 , 0)}
RQPQ QP Q 1
E_BOSC 33 GND value = { IF(V(CLK) > 0.5 , 1 , IF( V(FAULT) > 0.5 , 1 , 0))}
IOSC GND RAMP DC=850U
COSC RAMP GND 1.6N IC=0
ROSC CLK GND 1K
VD1 SW 53 DC=0
E_BFAULT2 FAULT2 GND value = { IF(V(NODE01) > 0.5 & V(FAULT) < 0.5 , 1 , 0)}
XSSFA FB2 REF FAULT2 GND SSWITCH_0
XAMP INTER GND FAULT2 GND SSWITCH_1
XMEASS MEASSHOT 0 RESET2SHOT 0 SSWITCH_2
VFB2 FB2 NODE80 DC=0
XDRIVER 53 19 20 NationalFET2A 
E_BRAMP 34 0 value = {V(RAMP, GND)}
XISNA 34 GND ISN V2ITABLEX3_0
EFB2 NODE80 GND FB GND 1
CAMP INTER 41 0.044U
RAMP 41 GND 283
C2AMP INTER GND 1.25N
GAMP GND OPAMPOUT INTER GND 122U
E_BAMP 42 GND value = {0.15+0.0606*V(VIN)}
DCLAMPN 43 INTER DCLAMP
.MODEL DCLAMP D
DCLAMPP INTER 42 DCLAMP
VCLAMP 43 GND DC=0.613
ISS GND REF DC=12.5U
VREF NODE4 GND DC=1.255
E_BFB 44 0 value = {V(FB,REF)}
XFB 44 INTER GND V2ITABLEX1_0
CSS GND REF 42N IC={0+SS*(-1.255)}
E_BRESHOT RESETSHOT 0 value = { IF(V(CHSHOT)<0.5 , 1 , 0)}
E_BCHSHOT CHSHOT 0 value = { IF(V(CLK)<0.5 , 1 , IF( V(BLANK)>0.5 , 1 , 0))}
E_BLANK BLANK 0 value = { IF(V(MEASSHOT) < 0.5 & V(CHSHOT) > 0.5 , 1 , 0)}
RRES RESET2SHOT RESETSHOT 0.1
RCHS MEASSHOT CHSHOT 45
RAMP_EXT OPAMPOUT GND 15K
CCHS 0 MEASSHOT 1.4427N
CRES 0 RESET2SHOT 1.4427N
R27 RAMP GND 1G
RCONTROL NODE1 GND 10K
SEN ONEVOLT NODE1 EN GND _S1_MOD
.MODEL _S1_MOD vswitch VT=1.1 VH=0.7 RON=1 ROFF=1MEG
EEN 30 GND NODE1 GND 1
REN 30 ENABLE 10
CEN ENABLE GND 100P IC=0
E_BCONTROL 31 GND value = { IF(V(NODE1,GND) > 0.99 , 0 , 1)}
RENN 31 ENABLENOT 10
CENN ENABLENOT GND 10P IC=0
SUVLO ONEVOLT NODE2 VIN GND _S2_MOD
.MODEL _S2_MOD vswitch VT=2.1 VH=0.2 ROFF=1E6
RUV NODE2 GND 10K
RUVLO 32 UVLO 10
CUVLO UVLO GND 10P IC=0
E_BUVLO 32 GND value = { IF(V(NODE2,GND) > 0.99 , 0 , 1)}
RISS VIN GND 62.5E6
RICL ICL GND 100K
V6P9 NODE3 GND DC=6.9
V1V ONEVOLT GND DC=1
E_BICL OC 0 value = { IF(V(ICL) > V(NODE3) , 1 , 0)}
E_BFAULT FAULT 0 value = { IF(V(UVLO) > 0.5 , 1 , IF( V(ENABLENOT) > 0.5 , 1 , 0))}
XOSC RAMP GND 33 GND SSWITCH_4
VCLK CLK GND PULSE 0 1 0 1N 1N 25N 0.625U
XCCCS GND 18 20 GND CCCS_0
E_BDRIVER 17 GND value = { IF(V(INPUT)>0.5 & V(FAULT)<0.5 , 5 , 0)}
RDRIVER 17 19 10
CDRIVER 19 GND 10P
VISN 18 58
XSS 63 REF NODE4 V2ITABLEX10_0
E_BSS 63 0 value = {V(REF, NODE4)}
E_BRSHOTAMP RESETSHOTAMP 0 value = { IF(V(CHAMP)<0.5 , 1 , 0)}
E_BCSHOTAMP CHAMP 0 value = { IF(V(FAULT)<0.5 , 1 , IF(  V(NODE01)>0.5 , 1 , 0))}
E_BMSHOTAMP NODE01 0 value = { IF(V(MEASSHOTAMP) < 0.5 & V(CHAMP) > 0.5 , 1 , 0)}
RSHOTAMP RESETSHOT2AMP RESETSHOTAMP 0.1
R2SHOTAMP MEASSHOTAMP CHAMP 1600E3
C2SHOTAMP MEASSHOTAMP 0 {650P-600P*SS} IC=1 
CSHOTAMP RESETSHOT2AMP 0 650P IC=1  
XSHOTAMP MEASSHOTAMP 0 RESETSHOT2AMP 0 SSWITCH_5
.ENDS LMR62421X_TRANS
*$
.SUBCKT CCCS_0 1    2    3   4
F1 1 2 V1 23.000U
V1 3 4
.ENDS
*$
.SUBCKT CCVS_0 1    2    3   4
H1 1 2 V1 100.000K
V1 3 4
.ENDS
*$
.SUBCKT SSWITCH_0 1 2 3   4
S_A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON=1.0000M ROFF=1.0000G VON=750.00M VOFF=250.00M
.ENDS
*$
.SUBCKT SSWITCH_1 1 2 3   4
S_A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON=1.0000M ROFF=1.0000G VON=750.00M VOFF=250.00M
.ENDS
*$
.SUBCKT SSWITCH_2 1 2 3   4
S_A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON=1.0000  ROFF=1.0000MEG VON=750.00M VOFF=250.00M
.ENDS
*$
.SUBCKT SSWITCH_3 1 2 3   4
S_A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON=170.00M ROFF=1.0000MEG VON=750.00M VOFF=250.00M
.ENDS
*$
.SUBCKT SSWITCH_4 1 2 3   4
S_A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON=1.0000  ROFF=1.0000G VON=750.00M VOFF=250.00M
.ENDS
*$
.SUBCKT SSWITCH_5 1 2 3   4
S_A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON=1.0000  ROFF=1.0000G VON=750.00M VOFF=250.00M
.ENDS
*$
.SUBCKT V2ITABLEX1_0 1 2 3
G1 2 3 TABLE { V(1, 0) } ( (-200,-197U) (-10,-197U)(-196M,-196U)(0,0) (196M,196U)
+  (10,197U) (200,197U) )
.ENDS
*$
.SUBCKT V2ITABLEX3_0 1 2 3
G1 2 3 TABLE { V(1, 0) } ( (-200,0) (0,0)(0.75,15U)(1,22.5U) (200, 22.5U) )
.ENDS
*$
.SUBCKT V2ITABLEX10_0 1 2 3
G1 2 3 TABLE { V(1, 0) } ( (-200,10N) (-10,10N) (0,0) (1M,1M) (2M,10M) 
+ (3M,500M) (200,500M) )
.ENDS
*$
.SUBCKT NationalFET2A 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  84.5m
RS  30  3  5.50m
RG  20  2  50
CGS  2  3  55.4p
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  59.0p
R1  13  0  1.00
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1.00
D2  15  0  DLIM
DSD  3 10  DSUB
.MODEL DMOS NMOS(LEVEL=3 VMAX=52.1k THETA=58.1m ETA=2.00m VTO=3.10 KP=10.69
.MODEL DCGD D (CJO=59.0p VJ=0.600 M=0.680
.MODEL DSUB D (IS=10.4n N=1.50 RS=0.100 BV=25.0  CJO=217p VJ=0.800 M=0.420 TT=86n
.MODEL DLIM D (IS=100U)
.ENDS
*$
.MODEL myD30880 D BV=500 CJO=470E-12 EG=0.69 IBV=1E-6  IS=9E-6
+ M=0.8 N=1.442 RS=60E-3 VJ=1 XTI=2
*$
.SUBCKT CESR 1 2 PARAMS: C=10u ESR=2m
C1 1 INT1 {C}
R1 INT1 2 {ESR}
.ENDS CESR
*$
.SUBCKT LDCR IN OUT
+ PARAMS:  L=1u DCR=0.01 
L	1 OUT  {L} 
RDCR	IN 1 {DCR}
.ENDS LDCR
*$
.SUBCKT CESR1 1 2 PARAMS: C=10u ESR=2m IC=0
C1 1 INT1 {C} IC={IC}
R1 INT1 2 {ESR}
.ENDS CESR1
*$
.SUBCKT LDCR1 IN OUT
+ PARAMS:  L=1u DCR=0.01 IC=0
L	1 OUT  {L} IC={IC}
RDCR	IN 1 {DCR}
.ENDS LDCR1
*$
